US06531477B1
To a stirred mixture of 100 mg (0.2 mmol) of 1-(2,4,6-trichlorophenyl)-3-ethyl-6-(4-bromobenzyl)pyrazolo[3,4-d]pyrimidin-4-one and 38 mg (0.25 mmol) of 4-methoxyphenylboronic acid in 10 mL of toluene, 0.5 mL of EtOH, and 2 mL of 2 M Na2CO3 was added to 5 mg of Pd(Ph3P)4. The mixture was heated to reflux overnight, poured into water, and extracted with CHCl3. The organic extract was dried (MgSO4), filtered through celite, chromatographed (elution with 5% MeOH/CH2Cl2), and recrystallized to afford 64 mg (59%) of 1-(2,4,6-trichlorophenyl)-3-ethyl-6-(4-(4-methoxyphenyl)benzyl)pyrazolo[3,4-d]pyrimidin-4-one as a pale brown powder, mp 275-277° C., Mass spec.: 537 (M−H)−.

reactant | 1-(2,4,6-trichlorophenyl)-3-ethyl-6-(4-bromobenzyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.2 mmol, 100 mg | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)Br)CC | C20H14BrCl3N4O
reactant | 4-methoxyphenylboronic acid | 0.25 mmol, 38 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 2 M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 0.5 mL | CCO | C2H6O
catalyst | Pd(Ph3P)4 | 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,4,6-trichlorophenyl)-3-ethyl-6-(4-(4-methoxyphenyl)benzyl)pyrazolo[3,4-d]pyrimidin-4-one | 64 mg, 59% | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)C2=CC=C(C=C2)OC)CC | C27H21Cl3N4O2
